US04196216
(9) [(α-methyl-3,4-dichlorobenzylidene amino)oxy] acetamide.
A solution of 5.0 g of 3', 4'-dichloroacetophenone in 50 ml of 90% ethanol was mixed with 2.4 g of aminooxyacetamide and subsequently boiled. The solvent was removed in a vacuum and the residue was extracted with chloroform. The chloroform solution was washed thrice with water, dried over anhydrous sodium sulfate and subsequently concentrated by evaporation in a vacuum. After the addition of ether and petroleum ether the superscribed substance crystallized out from the concentrate. Melting point 111° C.-111.5° C.

reactant | 3', 4'-dichloroacetophenone | 5.0 g | ClC=1C=C(C=CC1Cl)C(C)=O | C8H6Cl2O
reactant | aminooxyacetamide | 2.4 g | NOCC(=O)N | C2H6N2O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | [(α-methyl-3,4-dichlorobenzylidene amino)oxy] acetamide | CC(C1=CC(=C(C=C1)Cl)Cl)=NOCC(=O)N | C10H10Cl2N2O2
